US09422287B2
6-Bromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine (Br-1)
16.3 g (43.6 mmol) of 2-[2-(3-bromocarbazol-9-yl)phenyl]propan-2-ol are dissolved in 1.2 l of degassed toluene, a suspension of 40 g of polyphosphoric acid and 28 ml of methanesulfonic acid is added, and the mixture is heated at 60° C. for 1 h. The batch is cooled, and water is added. A solid precipitates out and is dissolved in methylene chloride/THF (1:1). The solution is carefully rendered alkaline using 20% NaOH, the phases are separated and dried over MgSO4. The solid obtained is washed by stirring with heptane. Yield: 13.5 g (37 mmol), 87% of theory, purity according to 1H-NMR about 95%.

reactant | 2-[2-(3-bromocarbazol-9-yl)phenyl]propan-2-ol | 43.6 mmol, 16.3 g | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=C(C=CC=C1)C(C)(C)O | C21H18BrNO
reactant | methanesulfonic acid | 28 ml | CS(=O)(=O)O | CH4O3S
reactant | water | O | H2O
solvent | toluene | 1.2 l | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine | BrC=1C=C2C(C=3C=CC=CC3N3C2=C(C1)C=1C=CC=CC13)(C)C | C21H16BrN
